US08124606B2
Compound 96: 7-((4-(4-chlorophenyl)piperidin-1-yl)methyl)-4-isopropyl-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one
The 7-(hydroxymethyl)-4-isopropyl-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one (100 mg, 0.452 mmol) suspended in propionitrile (1 mL). To this was added (cyanomethyl)trimethylphosphonium iodide (132 mg, 0.542 mmol) followed by DIEA (0.237 mL, 1.356 mmol) and 4-(4-chlorophenyl)piperidine hydrochloride (115 mg, 0.50 mmol). The reaction was stirred at 90° C. overnight. The crude reaction was cooled to room temperature and concentrated to a residue, then taken up in DMSO (3 mL) and purified via HPLC (55-90% acetonitrile in water, ammonium bicarbonate buffer). The fractions were combined and concentrated until a white solid precipitated. The precipitate was filtered and dried in vacuum to afford the title compound (28.3 mg, 16%) as a white solid. 1H NMR (DMSO-d6) δ (ppm): 10.49 (s, 1H), 7.62 (d, J=2.0 Hz, 1H), 7.29-7.37 (m, 2H), 7.18-7.29 (m, 2H), 6.96 (d, J=2.0 Hz, 1H), 4.75-4.87 (m, 1H), 3.81 (s, 2H), 3.32 (d, J=12.9 Hz, 3H), 2.88 (d, J=11.1 Hz, 2H), 1.87-2.07 (m, 2H), 1.65-1.77 (m, 2H), 1.57 (dd, J=12.4, 3.3 Hz, 2H), 1.10 (d, 6H). [M+H] calc'd for C22H27ClN4O, 399. found, 399.

reactant | 7-(hydroxymethyl)-4-isopropyl-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one | 0.452 mmol, 100 mg | OCC1=CC2=C(N(CC(N2)=O)C(C)C)N=C1 | C11H15N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.542 mmol, 132 mg | [I-].C(#N)C[P+](C)(C)C
reactant | DIEA | 1.356 mmol, 0.237 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(4-chlorophenyl)piperidine hydrochloride | 0.50 mmol, 115 mg | Cl.ClC1=CC=C(C=C1)C1CCNCC1
solvent | propionitrile | 1 mL | C(CC)#N | C3H5N
product | 7-((4-(4-chlorophenyl)piperidin-1-yl)methyl)-4-isopropyl-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one | 28.3 mg, 16% | ClC1=CC=C(C=C1)C1CCN(CC1)CC1=CC2=C(N(CC(N2)=O)C(C)C)N=C1 | C22H27ClN4O
